US04886814
Methyl 3-[2-(4-carbomethoxyphenyl)-1-methylethyl]-5-(2-trifluoromethyl-thiazol-4-yl)-2-oxazolidine carboxylate
Prepared analogously to Example 18 by reaction of N-[2-(4-carbomethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine with methyl glyoxylate.

reactant | N-[2-(4-carbomethoxyphenyl)-1-methylethyl]-2-hydroxy-2-(2-trifluoromethyl-thiazol-4-yl)ethanamine | C(=O)(OC)C1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C(F)(F)F)O | C17H19F3N2O3S
reactant | methyl glyoxylate | C(C=O)(=O)OC | C3H4O3
product | Methyl 3-[2-(4-carbomethoxyphenyl)-1-methylethyl]-5-(2-trifluoromethyl-thiazol-4-yl)-2-oxazolidine carboxylate | C(=O)(OC)C1=CC=C(C=C1)CC(C)N1C(OC(C1)C=1N=C(SC1)C(F)(F)F)C(=O)OC | C20H21F3N2O5S
